US07202249B2
2,4-Dichlorobenzylamine (211 mg, 1.2 mmol) was added to the stirred solution of 2,4 dichloro-pyrido[2,3-d]pyrimidine(200 mg, 1 mmol) and N,N-diisopropylethylamine (266 μL, 1.5 mmol) in 1,2-dichloroethane (5 mL). The reaction mixture was stirred at room temperature for 12 h and then diluted with water (10 mL). The aqueous layer was extracted with CH2Cl2 and the combined organic layer was washed with water (2×10 mL), dried (Na2SO4) and concentrated in vaccuo to give (2-Chloro-pyrido[2,3-d]pyrimidin-4-yl)-(2,4-dichloro-benzyl)-amine as a yellow oil (185 mg) and was used as such in the next reaction without further purification.

reactant | 2,4-Dichlorobenzylamine | 1.2 mmol, 211 mg | ClC1=C(CN)C=CC(=C1)Cl | C7H7Cl2N
reactant | 2,4 dichloro-pyrido[2,3-d]pyrimidine | 1 mmol, 200 mg | ClC=1N=C(C2=C(N1)N=CC=C2)Cl | C7H3Cl2N3
reactant | N,N-diisopropylethylamine | 1.5 mmol, 266 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
solvent | water | 10 mL | O | H2O
product | (2-Chloro-pyrido[2,3-d]pyrimidin-4-yl)-(2,4-dichloro-benzyl)-amine | 185 mg | ClC=1N=C(C2=C(N1)N=CC=C2)NCC2=C(C=C(C=C2)Cl)Cl | C14H9Cl3N4
